.include gates.sub

.subckt SUM C0 C1 C2 C3 P0 P1 P2 P3 S0 S1 S2 S3

XXxor0 C0 P0 S0 XOR
XXxor1 C1 P1 S1 XOR
XXxor2 C2 P2 S2 XOR
XXxor3 C3 P3 S3 XOR

.ends